US07700633B2
To a stirred solution of 6-benzyloxyindan-5-ylamine (2.00 g, 8.37 mmol) in MeCN (50 mL) is added AcOH (25 mL) followed by ethyl gloxylate (50% in toluene, 2.49 mL, 12.6 mmol). This is stirred for 2 h, then cooled to 0° C. A slurry of sodium triacetoxyborohydride (3.55 g, 16.7 mmol) is added and this is stirred for 10 min, at which time LCMS reveals complete consumption of the starting material. The reaction is diluted with saturated NaHCO3 and DCM, and the organic layer is separated, washed with brine, dried over MgSO4 and concentrated in vacuo to afford (6-benzyloxyindan-5-ylamino)-acetic acid methyl ester as a brown gummy solid.

reactant | 6-benzyloxyindan-5-ylamine | 8.37 mmol, 2.00 g | C(C1=CC=CC=C1)OC1=C(C=C2CCCC2=C1)N | C16H17NO
reactant | AcOH | 25 mL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 16.7 mmol, 3.55 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeCN | 50 mL | CC#N | C2H3N
product | (6-benzyloxyindan-5-ylamino)-acetic acid methyl ester | COC(CNC=1C=C2CCCC2=CC1OCC1=CC=CC=C1)=O | C19H21NO3
